US07807840B2
Thionyl chloride (47.7 mL) was added dropwise to methanol (300 mL) under stirring at −5° C. over 2 hours and 15 minutes. D-Norvaline (35.00 g) was added to the resulting light yellow solution under stirring at −4° C. The solution was stirred at room temperature for 18 hours and then methanol was removed under reduced pressure. Disopropyl ether (90 mL) was added to the precipitated crystals, which were filtered and washed twice with diisopropyl ether (30 mL) to give (R)-norvaline methyl ester (47.74 g, 95% yield) as a white powder.

reactant | Thionyl chloride | 47.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | D-Norvaline | 35.00 g | N[C@H](CCC)C(=O)O | C5H11NO2
reactant | methanol | 300 mL | CO | CH4O
product | (R)-norvaline methyl ester | 47.74 g, 95% yield | COC([C@H](N)CCC)=O | C6H13NO2
